US05405601
A mixture of 1,3-diphthalimido-2-(t-butylcarboxymethyl)oxapropane(0.50 g, 1.08 mmol) and 55% hydrazine (0.23 mL, 4.6 mmol) in 2 mL of methanol is refluxed for 4 hrs. After cooling the reaction solution to room temperature, the solids are filtered and the filtrate is evaporated under reduced pressure to yield 1,3-diamino-2-(t-butylcarboxymethyl)oxapropane.

reactant | 1,3-diphthalimido-2-(t-butylcarboxymethyl)oxapropane | 1.08 mmol, 0.50 g | C1(C=2C(C(N1OC(CN1C(C=3C(C1=O)=CC=CC3)=O)C(C(=O)O)C(C)(C)C)=O)=CC=CC2)=O | C24H22N2O7
reactant | hydrazine | 4.6 mmol, 0.23 mL | NN | H4N2
solvent | methanol | 2 mL | CO | CH4O
product | 1,3-diamino-2-(t-butylcarboxymethyl)oxapropane | NOC(CN)C(C(=O)O)C(C)(C)C | C8H18N2O3
